US07612075B2
C. 4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one
2-{4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-2-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester (0.90 g, 0.17 mmol) is stirred in 30% TFA/CH2Cl2 (8 mL) for 1 h then concentrated to dryness and purified by RP-HPLC using 10-100% acetonitrile/0.1% TFA water as the eluent. The appropriate fractions are collected and lypholized to yield the title product as an amorphous white solid (0.44 mg, 0.08 mmol).

reactant | 2-{4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-2-oxo-piperazin-1-ylmethyl}-pyrrolo[3,2-c]pyridine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 0.90 g | C(C)(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)CN2C(CN(CC2)CC2=CC=C(C=C2)C=2SC(=CC2)Cl)=O | C28H29ClN4O3S
solvent | TFA CH2Cl2 | 8 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-[4-(5-Chloro-thiophen-2-yl)-benzyl]-1-(1H-pyrrolo[3,2-c]pyridin-2-ylmethyl)-piperazin-2-one | 0.08 mmol, 0.44 mg | ClC1=CC=C(S1)C1=CC=C(CN2CC(N(CC2)CC2=CC=3C=NC=CC3N2)=O)C=C1 | C23H21ClN4OS
